Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: UROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Bladder lesion
 
Major Surgical or Invasive Procedure:
Transurethral resection of bladder tumor

 
History of Present Illness:
___ w/ hematuria and subsequently identified bladder lesion
 
Past Medical History:
 HEMORRHOIDS  
 OBESITY  
 ACL TEAR  
 R  
 ACTINIC KERATOSIS  
 LENTEGINES  
 ACROCHRODON  

 OSA Risk, Right knee OA, bilateral foot OA, obesity, GERD, 

 
Social History:
former smoker, quit ___ ago, occasionally ETOH, 3pwk, denies 
illicits, lives w/ wife ___. No dietary restrictions.
Marital status: Married  
 Children: Yes: 4: 2 son, 2 dtr  
 Work: ___
 Sexual orientation: Female  
 Domestic violence: Denies  
 Tobacco use: Former smoker  
 Alcohol use: Past and Present  
 drinks per week: ___  
 Recreational drugs Denies  
 (marijuana, heroin,  
 crack pills or  
 other):  
 Depression no conecrns.  
 Screening:  
 Depression: Based on a PHQ-2 evaluation, the patient does not 
report symptoms of depression  
 Exercise: Activities: walking.  
 Exercise comments: counseled.  
 Seat belt/vehicle Always  
 restraint use:  
 Bike helmet use: N/A  
 Comments: no guns.  

 
Family History:
 Mother Living ___ EYE ISSUES  
 COLON CANCER  
 Father Living ___ BLADDER CANCER  
 PROSTATE CANCER  
 MGF Deceased CORONARY ARTERY  
 DISEASE  
 Comments: no cad or dm. 10 siblings. diverticulitis. 1 brother  

 has sz d/o.  
 
Physical Exam:
WDWN, NAD, AVSS
Abdomen soft, non-distended 
****Foley in place, secured to medial thigh. 
Bilateral lower extremities w/out edema, pitting or pain to deep 
palpation of calves

 
Brief Hospital Course:
Patient was admitted to Urology service after bipolar 
transurethral resection of bladder tumor. No concerning 
intraoperative events occurred; please see dictated operative 
note for details. He patient received ___ antibiotic 
prophylaxis. The patient's postoperative course was 
uncomplicated. He received intravenous antibiotics and 
continuous bladder irrigation overnight. On POD1 the CBI was 
discontinued and Foley catheter was removed with an active 
vodiding trial.  Post void residuals were checked. His urine was 
clear and and without clots. He remained a-febrile throughout 
his hospital stay.  At discharge, the patient had pain well 
controlled with oral pain medications, was tolerating regular 
diet, ambulating without assistance, and voiding without 
difficulty.  He was given pyridium and oral pain medications on 
discharge and a course of antibiotics along with explicit 
instructions to follow up in clinic with.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ibuprofen 400 mg PO Q8H:PRN Pain - Mild 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
OSTOPERATIVE DIAGNOSIS:  Bladder lesions.
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
hese steps can help you recover after your procedure. 
•DO drink plenty of water to flush out the bladder. 
•DO avoid straining during a bowel movement. Eat 
fiber-containing foods and avoid foods that can cause 
constipation. Ask your doctor if you should take a laxative if 
you do become constipated. 
•Don't take blood-thinning medications until your doctor says 
it's OK. 
•Don't do any strenuous activity, such as heavy lifting, for 
four to six weeks or until your doctor says it's OK. 
•Don't have sex. You'll likely be able to resume sexual 
activity in about four to six weeks. 
•Don't drive until your doctor says it's OK. ___, you can 
drive once your catheter is removed and you're no longer taking 
prescription pain medications. 

•You may continue to periodically see small amounts of blood in 
your urine--this is normal and will gradually improve. You may 
have clear or yellow urine that periodically turns pink/red 
throughout the healing process. Generally, the discoloration of 
the urine is “OK” unless it transitions from ___, 
___ Aid to a very dark, thick or “like tomato juice” 
color

•Resume your pre-admission/home medications EXCEPT as noted. 
You should ALWAYS call to inform, review and discuss any 
medication changes and your post-operative course with your 
primary care team. 

•Unless otherwise advised, blood thinning medications like 
ASPIRIN should be held until the urine has been clear/yellow for 
at least three days. Your medication reconciliation will note if 
you may resume aspirin or prescription blood thinners (like 
Coumadin (warfarin), Xarelto, Lovenox, etc.)

•If needed, you will be prescribed an antibiotic to continue 
after discharge or save until your Foley catheter is removed 
(called a “trial of void” or “void trial”). 

•You may be discharged home with a medication called PYRIDIUM 
that will help with the "burning" pain you may experience when 
voiding. This medication may turn your urine bright orange.

•Colace has been prescribed to avoid post surgical constipation 
and constipation related to narcotic pain medication. 
Discontinue if loose stool or diarrhea develops. Colace is a 
stool softener, NOT a laxative, and it is available 
over-the-counter 

•AVOID STRAINING for bowel movements as this may stir up 
bleeding. Avoid constipating foods for ___ weeks, and drink 
plenty of fluids to keep hydrated

•No vigorous physical activity or sports for 4 weeks or until 
otherwise advised

•Do not lift anything heavier than a phone book (10 pounds) or 
participate in high intensity physical activity (which includes 
intercourse) for a minimum of four weeks or until you are 
cleared by your Urologist in follow-up

•Acetaminophen (Tylenol) should be your first-line pain 
medication. A narcotic pain medication may also be prescribed 
for breakthrough or moderate pain. 

•The maximum daily Tylenol/Acetaminophen dose is 3 grams from 
ALL sources. 

•Do not drive or drink alcohol while taking narcotics and do 
not operate dangerous machinery. 
 
Followup Instructions:
___